US09238640B2
3-Hydroxy-5-methoxy-benzaldehyde (12.0 g, 78.9 mmol) and [1,3]dioxolan-2-one (13.9 g, 157.0 mmol) in anhydrous DMF (50 mL) was added potassium carbonate (21.6 g, 157.0 mmol). The mixture was then heated to 110° C. for 16 hours. The reaction mixture was cooled to room temperature. Solid potassium carbonate was filtered and washed with ethyl acetate. The organic phase was collected and solvent was removed. The residue was purified by column chromatography (silica gel 230-400 mesh; eluting with dichloromethane and ethyl acetate 7:1), to give 3-(2-hydroxy-ethoxy)-5-methoxy-benzaldehyde as a brown liquid. Yield: 10.0 g (65%).

reactant | 3-Hydroxy-5-methoxy-benzaldehyde | 78.9 mmol, 12.0 g | OC=1C=C(C=O)C=C(C1)OC | C8H8O3
reactant | [1,3]dioxolan-2-one | 157.0 mmol, 13.9 g | O1C(OCC1)=O | C3H4O3
reactant | potassium carbonate | 157.0 mmol, 21.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(2-hydroxy-ethoxy)-5-methoxy-benzaldehyde | OCCOC=1C=C(C=O)C=C(C1)OC | C10H12O4
